US07700589B2
57a) ethyl (R)-2-{[4-(5-oxo-3-phenyl-4,5-dihydro-[1,2,4]triazol-1-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate
A mixture of 15 mL THF, 0.830 g (3.4 mmol) ethyl (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate and 0.63 g (3.8 mmol) CDT was stirred for 1 h in the ice bath and for 1 h at RT. Then 0.83 g (3.4 mmol) 5-phenyl-2-piperidin-4-yl-2,4-dihydro-[1,2,4]triazol-3-one was added and the mixture was refluxed for 3 h. The reaction mixture was evaporated down under reduced pressure, the residue was combined with 15% K2CO3 solution, the precipitate was suction filtered and dried.

reactant | ethyl (R)-2-amino-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate | 3.4 mmol, 0.830 g | N[C@@H](C(=O)OCC)CC1=CC=2CCCCC2C=C1 | C15H21NO2
reactant | 5-phenyl-2-piperidin-4-yl-2,4-dihydro-[1,2,4]triazol-3-one | 3.4 mmol, 0.83 g | C1(=CC=CC=C1)C=1NC(N(N1)C1CCNCC1)=O | C13H16N4O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | ethyl (R)-2-{[4-(5-oxo-3-phenyl-4,5-dihydro-[1,2,4]triazol-1-yl)-piperidine-1-carbonyl]-amino}-3-(5,6,7,8-tetrahydro-naphthalen-2-yl)-propionate | O=C1NC(=NN1C1CCN(CC1)C(=O)N[C@@H](C(=O)OCC)CC1=CC=2CCCCC2C=C1)C1=CC=CC=C1 | C29H35N5O4
